US09212182B2
A solution of perfluorophenyl 1-(4-bromo-2-methoxy-5-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (3.508 g, 4.87 mmol), isoxazol-3-amine (0.540 ml, 7.31 mmol) and THF (48.7 ml) was cooled in an ice-bath for 15 min, then lithium bis(trimethylsilyl)amide (1M in THF) (12.18 ml, 12.18 mmol) was added dropwise. After 20 min, additional portions of 3-aminoisoxazole (0.1 mL) and LHMDS solution (2 mL) were added. After 5 min, the mixture was diluted with 1N aq. HCl and EtOAc. The layers were separated, and the organic layer was washed with 1N aq. HCl. The aq. layers were combined and extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was concentrated from DCM, and then taken up in DCM. The resulting suspension was sonicated and filtered. The collected solid was washed with DCM (2×), dried under a stream of N2 (g), then dried under vacuum to give 1-(4-bromo-2-methoxy-5-methylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (2.169 g, 4.42 mmol, 91% yield) as a white solid. 1 H NMR (400 MHz, DMSO-d6) □=11.66 (br. s., 1 H), 8.72 (d, J=1.8 Hz, 1 H), 8.35 (d, J=2.2 Hz, 1 H), 8.21 (d, J=9.6 Hz, 1 H), 7.83 (dd, J=2.2, 8.9 Hz, 1 H), 7.52 (s, 1 H), 7.34 (d, J=0.4 Hz, 1 H), 6.78 (d, J=9.6 Hz, 2 H), 6.43 (d, J=1.9 Hz, 1 H), 3.67 (s, 3 H); 2.31 (s, 3 H). m/z (ESI) 489.9 (M+H)+.

reactant | perfluorophenyl 1-(4-bromo-2-methoxy-5-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 4.87 mmol, 3.508 g | BrC1=CC(=C(C=C1C)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C23H13BrF5NO5S
reactant | isoxazol-3-amine | 7.31 mmol, 0.540 ml | O1N=C(C=C1)N | C3H4N2O
reactant | THF | 48.7 ml | C1CCOC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 12.18 mmol, 1M, 12.18 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-aminoisoxazole | 0.1 mL | NC1=NOC=C1 | C3H4N2O
reactant | LHMDS | 2 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | HCl | 1N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-bromo-2-methoxy-5-methylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 4.42 mmol, 2.169 g, 91% yield | BrC1=CC(=C(C=C1C)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C20H16BrN3O5S
